### PR TITLE
[Merged by Bors] - feat: piecewise locally constant maps and related lemmas

### PR DESCRIPTION
**Pull request by dagurtomas**
We define the locally constant map on a topological space covered by two closed sets, defined piecewise on those two closed sets by two maps, that are equal on the intersection.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Function/Basic.lean [hunk 1]
```diff
@@ -991,6 +991,12 @@ def Set.piecewise {α : Type u} {β : α → Sort v} (s : Set α) (f g : ∀ i,
   fun i ↦ if i ∈ s then f i else g i
 #align set.piecewise Set.piecewise
 
+/-- `s.piecewise' f g` is a variant of `s.piecewise f g` when `f` is only defined on `s` and `g`
+    is only defined on its complement. -/
+def Set.piecewise' {α : Type _} {β : α → Sort _} (s : Set α) (f : ∀ i : {i // i ∈ s}, β i.val)
+    (g : ∀ i : {i // i ∉ s}, β i.val) [∀ j, Decidable (j ∈ s)] : ∀ i, β i :=
+  fun i ↦ if h : i ∈ s then f ⟨i, h⟩ else g ⟨i, h⟩
```
Comment (ADedecker) [inline Mathlib/Logic/Function/Basic.lean:998]: I don't think it's a good idea to add yet again a new definition for this. I would be in favor of just using `if ... then ... else` directly, especially since lemmas about `dite` already cover some of your needs. Does that sound too annoying?

**Comment by dagurtomas** [comment]
I removed the `Set.piecewise'` stuff. I didn't know about `restrict_dite`, thanks for pointing that out. Indeed it makes everything simpler. Now the only change is the addition of `LocallyConstant.piecewise`

File: Mathlib/Topology/LocallyConstant/Basic.lean [hunk 2]
```diff
@@ -569,4 +569,35 @@ theorem mulIndicator_of_not_mem (hU : IsClopen U) (h : a ∉ U) : f.mulIndicator
...
+    (hfg : ∀ (x : X) (hx : x ∈ C₁ ∩ C₂), f.toFun ⟨x, hx.1⟩ = g.toFun ⟨x, hx.2⟩)
+    [∀ j, Decidable (j ∈ C₁)] : LocallyConstant X Z where
+  toFun i := if hi : i ∈ C₁ then f ⟨i, hi⟩ else g ⟨i, (Set.compl_subset_iff_union.mpr h) hi⟩
+  isLocallyConstant := by
+    let dZ : TopologicalSpace Z := ⊥
+    haveI : DiscreteTopology Z := discreteTopology_bot Z
+    obtain ⟨f, hf⟩ := f
+    obtain ⟨g, hg⟩ := g
+    rw [IsLocallyConstant.iff_continuous] at hf hg ⊢
+    dsimp
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Basic.lean:588]:
```suggestion
    dsimp only [coe_mk]
```

File: Mathlib/Topology/LocallyConstant/Basic.lean [hunk 3]
```diff
@@ -569,4 +569,35 @@ theorem mulIndicator_of_not_mem (hU : IsClopen U) (h : a ∉ U) : f.mulIndicator
...
+    rw [Set.union_eq_iUnion] at h
+    refine' (locallyFinite_of_finite _).continuous h (fun i ↦ _) (fun i ↦ _)
+    · cases i; exact h₂; exact h₁
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Basic.lean:591]:
```suggestion
    · cases i <;> [exact h₂; exact h₁]
```
Usually it's better to clearly indicate when there's branching happening

File: Mathlib/Topology/LocallyConstant/Basic.lean [hunk 4]
```diff
@@ -569,4 +569,35 @@ theorem mulIndicator_of_not_mem (hU : IsClopen U) (h : a ∉ U) : f.mulIndicator
...
+    · cases i
+      <;> rw [continuousOn_iff_continuous_restrict]
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Basic.lean:593]:
```suggestion
    · cases i <;> rw [continuousOn_iff_continuous_restrict]
```

**Review by ADedecker — COMMENTED** [review]
Thanks and sorry for the delay!

Some minor comments, otherwise LGTM.

bors d+
